US07776830B2
2-(Phenoxymethyl)-4-(2,3,4,6-tetra-O-acetyl-D-glucopyranos-1-yl)-benzonitrile
A flask charged with a stir bar, 1-bromo-4-(2,3,4,6-tetra-O-acetyl-D-glucopyranos-1-yl)-2-(phenoxymethyl)-benzene (14.7 g), copper cyanide (4.1 g), and NMP (100 mL) is heated at reflux temperature for 8 h. After dilution with water (600 mL), the precipitate is separated, washed a few times with water and subsequently dissolved in ethyl acetate (200 mL). The resultant solution is filtered through a plug of silica gel using ethyl acetate (300 mL) as the eluent. The filtrate is concentrated under reduced pressure and the residue is dissolved in dichloromethane (100 mL) to reacetylate the oxygen groups deprotected during the cyanation. Accordingly, pyridine (4 mL), 4-dimethylaminopyridine (0.3 g) and acetic anhydride (4.4 mL) are added in succession. The resulting solution is stirred at room temperature for 1 h. Then, the reaction mixture is diluted with dichloromethane (50 mL) and washed thrice with 1 M aqueous hydrochloric acid, once with aqueous sodium hydrogen carbonate solution and once with water. The organic phase is dried (sodium sulphate) and the solvent is removed. The residue is recrystallized from ethanol.

reactant | 1-bromo-4-(2,3,4,6-tetra-O-acetyl-D-glucopyranos-1-yl)-2-(phenoxymethyl)-benzene | 14.7 g | BrC1=C(C=C(C=C1)C1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC1=CC=CC=C1 | C27H29BrO11
reactant | copper cyanide | 4.1 g | [Cu](C#N)C#N
solvent | NMP | 100 mL | CN1CCCC1=O | C5H9NO
product | 2-(Phenoxymethyl)-4-(2,3,4,6-tetra-O-acetyl-D-glucopyranos-1-yl)-benzonitrile | O(C1=CC=CC=C1)CC1=C(C#N)C=CC(=C1)C1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C28H29NO11
